US08802713B2
1.5 g of 1-{2-fluoro-4-methyl-5-(2,2,2-trifluoroethylthio)phenyl}-3-hydroxy-5-methoxypyrazole was dissolved in 30 mL of N,N-dimethylformamide, 40 g of triethylamine was added, and stirring was carried out at 50° C. for 3 hours while trifluoromethyl trifluorovinyl ether was blown. To this solution, ethyl acetate was added, followed by washing with a saturated aqueous solution of citric acid, and then the organic layer was dried over anhydrous magnesium sulfate, the solvent was distilled off under reduced pressure, and the obtained residue was purified by column chromatography (developing solvent ethyl acetate:hexane=1:4) to obtain 1.1 g of 1-{2-fluoro-4-methyl-5-(2,2,2-trifluoroethylthio)phenyl}-5-methoxy-3-{1,1,2-trifluoro-2-(trifluoromethoxy)ethoxy}pyrazole.

reactant | 1-{2-fluoro-4-methyl-5-(2,2,2-trifluoroethylthio)phenyl}-3-hydroxy-5-methoxypyrazole | 1.5 g | FC1=C(C=C(C(=C1)C)SCC(F)(F)F)N1N=C(C=C1OC)O | C13H12F4N2O2S
reactant | triethylamine | 40 g | C(C)N(CC)CC | C6H15N
reactant | trifluoromethyl trifluorovinyl ether | FC(=C(F)F)OC(F)(F)F | C3F6O
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | N,N-dimethylformamide | 30 mL | CN(C=O)C | C3H7NO
product | 1-{2-fluoro-4-methyl-5-(2,2,2-trifluoroethylthio)phenyl}-5-methoxy-3-{1,1,2-trifluoro-2-(trifluoromethoxy)ethoxy}pyrazole | 1.1 g | FC1=C(C=C(C(=C1)C)SCC(F)(F)F)N1N=C(C=C1OC)OC(C(OC(F)(F)F)F)(F)F | C16H12F10N2O3S
